US06627651B1
To methyl 7-[3-(2-propoxyphenyl)propoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate (832 mg) dissolved in THF-methanol (15-7.5 ml) was added a 2 M aqueous solution of potassium carbonate (1.5 ml), and the resulting mixture was stirred at 60° C. for 20 hours. The reaction mixture was treated with 1 N hydrochloric acid to bring the pH to 2. The resulting mixture was extracted with ethyl acetate, and the organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with anhydrous magnesium sulfate. After concentration under reduced pressure to remove the solvent, the precipitated crystals were washed with ethyl acetate to obtain 7-[3-(2-propoxyphenyl)propoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (474 mg) as white crystals.

reactant | methyl 7-[3-(2-propoxyphenyl)propoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 832 mg | C(CC)OC1=C(C=CC=C1)CCCOC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OC)C1 | C24H28O6S
reactant | potassium carbonate | 1.5 ml | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF methanol | 15-7.5 ml | C1CCOC1.CO
product | 7-[3-(2-propoxyphenyl)propoxy]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 474 mg | C(CC)OC1=C(C=CC=C1)CCCOC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C23H26O6S
